US09233985B2
Step 3: tert-butyl 2-(3-allyl-4-oxocyclopentyl)ethylcarbamate
An ice-cooled (3° C.) stirred solution of 2-(9-allyl-1,4-dioxaspiro[4.4]nonan-7-yl)acetonitrile with ethylene glycol (0.829 g, 4.0 mmol) in anhydrous tetrahydrofuran (30 mL) was treated via syringe with 2N lithium aluminum hydride/tetrahydrofuran (6 mL, 12 mmol) and refluxed for 4 h (precipitate formed). The mixture was cooled on an ice bath and treated successively and carefully with water (0.5 mL), 15% aqueous sodium hydroxide (0.5 mL), and water (1.5 mL), filtered, and the filtrate concentrated in vacuo. The residual oil was dissolved in methylene chloride (20 mL), treated with di-t-butyldicarbonate (1.09 g, 5 mmol), stirred for 3 h, and concentrated in vacuo. The residue was dissolved in 5:1 acetone/water (30 mL), treated with Montmorillonite K-10 clay (5 g), refluxed for 6 h, cooled to room temperature, and filtered through Celite®. The filtrate was concentrated in vacuo, the residue was diluted with water (20 mL), and the aqueous solution extracted with methylene chloride (2×30 mL). The combined organic solution was washed with water (25 mL), dried (Na2SO4), and concentrated in vacuo. The residue was dissolved in minimal methylene chloride, added to a silica gel column (˜150 cc) and eluted with 5% ethyl acetate/methylene chloride to afford 0.51 g (48%) of the subject compound as a colorless oil. NMR (CDCl3): δ 5.60-5.75 (m, 1 H), 4.90-5.05 (m, 2 H), 4.47 (m, 1 H), 3.10 (m, 2 H), 2.40-2.50 (m, 1 H), 2.20-2.40 (m, 2 H), 2.10-2.20 (m, 1 H), 1.90-2.10 (m, 2 H), 1.65-1.90 (m, 2 H), 1.45-1.60 (m, 2 H), 1.37 (s, 9 H). MS (M+1): 268.2; MS (M+Na): 290.1.

reactant | 2-(9-allyl-1,4-dioxaspiro[4.4]nonan-7-yl)acetonitrile | C(C=C)C1CC(CC12OCCO2)CC#N | C12H17NO2
reactant | ethylene glycol | 4.0 mmol, 0.829 g | C(CO)O | C2H6O2
reactant | lithium aluminum hydride tetrahydrofuran | 12 mmol, 2N, 6 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-].O1CCCC1
reactant | sodium hydroxide | 0.5 mL | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 5 mmol, 1.09 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | tert-butyl 2-(3-allyl-4-oxocyclopentyl)ethylcarbamate | 0.51 g, 48% | C(C=C)C1CC(CC1=O)CCNC(OC(C)(C)C)=O | C15H25NO3
